US06894061B2
3-Chloro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
A stirred solution of 3-chloro-6-methylphenanthridine (0.40 g, 1.76 mmol) in tetrahydrofuran (7 mL) was treated with freshly crushed sodium borohydride (0.33 g, 8.8 mmol). Trifluoroacetic acid (0.54 mL, 7.0 mmol) was added dropwise at a rate to keep the exothermic reaction and gas evolution under control. After the addition was complete the heterogeneous reaction mixture was stirred until the temperature returned to 23° C. The mixture was then heated at reflux for 14 hours. The reaction was cooled to room temperature and neutralized with a saturated, aqueous sodium bicarbonate solution (150 mL). The mixture was filtered through a plug of glass wool into a separatory funnel and extracted with diethyl ether (4×50 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to a light brown paste. The crude 3-chloro-6-methyl-5,6-dihydrophenanthridine was dissolved in pyridine (12 mL), treated with 3-methoxybenzenesulfonyl chloride (0.55 g, 2.64 mmol) and 4-(dimethylamino)pyridine (0.01 g, 0.08 mmol), and stirred at 80° C. for 14 hours. The reaction mixture cooled to room temperature, treated with a 0.1 N aqueous sodium hydroxide solution (100 mL, 10 mmol), and extracted with dichloromethane (6×50 mL). The combined organic phase was washed with a 2 N hydrochloric acid solution (2×40 mL), dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to a brown solid. The brown solid was purified by flash column chromatography, eluting with a mixture of ethyl acetate:hexane (1:4), followed by crystallization from ethyl acetate-hexane, to afford the title compound as a homogeneous, white, crystalline solid (0.38 g, 54%), m.p. 117-118° C.;

reactant | 3-chloro-6-methylphenanthridine | 1.76 mmol, 0.40 g | ClC=1C=CC2=C3C=CC=CC3=C(N=C2C1)C | C14H10ClN
reactant | sodium borohydride | 8.8 mmol, 0.33 g | [BH4-].[Na+]
reactant | Trifluoroacetic acid | 7.0 mmol, 0.54 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
reactant | 3-methoxybenzenesulfonyl chloride | 2.64 mmol, 0.55 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium hydroxide | 10 mmol, 0.1 N, 100 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 0.08 mmol, 0.01 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-Chloro-5-[(3-methoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | ClC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C1=CC(=CC=C1)OC)C | C21H18ClNO3S
